US08211904B2
Step 2: [3-(1-cyclopropylethoxy)phenyl]methanol
Methyl 3-(1-cyclopropylethoxy)benzoate (11.7 g, 53.1 mmol) in tetrahydrofuran (212 mL) was added lithium borohydride (80.0 ml, 159 mmol). The reaction was heated at 50° C. for twelve hours. The reaction was quenched with methanol. The solvents were concentrated. The residue was dissolved in ethyl acetate and washed with saturated NaHCO3. The aqueous layer was extracted three times with dichloromethane and the organics were combined, washed twice with water, dried with MgSO4, filtered, and concentrated. The enantiomers were resolved on the chiral OD column (10 cm) with a flow rate of 300 ml/mn wavelength 275 nm running 97/3 hexanes/ethanol as the solvent system.

reactant | Methyl 3-(1-cyclopropylethoxy)benzoate | 53.1 mmol, 11.7 g | C1(CC1)C(C)OC=1C=C(C(=O)OC)C=CC1 | C13H16O3
reactant | lithium borohydride | 159 mmol, 80.0 ml | [BH4-].[Li+]
solvent | tetrahydrofuran | 212 mL | O1CCCC1 | C4H8O
product | [3-(1-cyclopropylethoxy)phenyl]methanol | C1(CC1)C(C)OC=1C=C(C=CC1)CO | C12H16O2
